US08053454B2
2-[(1-Benzothien-3-ylcarbonyl)amino]-4-chlorobenzoic acid
In a 2 mL vial, methyl 2-amino-4-chlorobenzoate (7.4 mg, 40 μmol) was dissolved into a mixture of 655 μL DCE and 120 μL DMA, followed by addition of DIPEA (600 μmol, 15 eq.). Benzo[b]thiophene-3-carboxylic acid (21.4 mg, 120 μmol, 3 eq.) and POCl3 (18.2 mg, 120 μmol, 3 eq.) were added. The reaction mixture was capped and stirred at room temperature overnight. Another 700 μL of DCE was added to the reaction mixture along with the following resin bound reagents: a resin bound diethylene triamine (PL-DETA, Polymer Labs, 297 μmol, 7.4 eq.) and a hydroxide ion exchange resin (PL-MP Hydroxide, Polymer Labs, 800 μmol, 20 eq.). The vial was recapped and shaken at room temperature overnight. The resin in the reaction mixture was filtered off, rinsed with 300 μL of MeOH and discarded. The combined filtrates were concentrated down in vacuo. The residue was re-dissolved into 1 mL of DMA and 280 μL of 1M aqueous NaOH. The solution was stirred at room temperature overnight. The desired product was isolated directly from this solution via reverse phase C18 preparative HPLC (water/acetonitrile w/0.1% formic acid, 30%-100% eluant gradient) to yield the final product (2.9 mg, 95% purity). MS (EI) for C16H10ClNO3S: 332 (M+H).

reactant | methyl 2-amino-4-chlorobenzoate | 40 μmol, 7.4 mg | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
reactant | DIPEA | 600 μmol, 15 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | Benzo[b]thiophene-3-carboxylic acid | 120 μmol, 21.4 mg, 3 eq. | S1C2=C(C(=C1)C(=O)O)C=CC=C2 | C9H6O2S
reactant | POCl3 | 120 μmol, 18.2 mg, 3 eq. | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diethylene triamine | 297 μmol, 7.4 eq. | NCCNCCN | C4H13N3
reactant | DETA | CCN(CC)C(=O)C1=CC(=CC=C1)C | C12H17NO
reactant | Hydroxide | [OH-]
solvent | DCE | 655 μL | ClCCCl | C2H4Cl2
solvent | DMA | 120 μL | CC(=O)N(C)C | C4H9NO
solvent | DCE | 700 μL | ClCCCl | C2H4Cl2
product | 2-[(1-Benzothien-3-ylcarbonyl)amino]-4-chlorobenzoic acid | S1C=C(C2=C1C=CC=C2)C(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C16H10ClNO3S
